US05441955
8-Chloroindolo[2,1-b] quinazoline-6,12-dione
Using the procedure in Example 12 and substituting isatoic anhydride for 5-chloroisatoic anhydride and 5-chloroisatin for 5-fluoroisatin gave the title compound in 39% crude yield: mp 295°-296° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.46-8.53 (m, 1H), 8.33 (d, 1H), 7.96 (d, 2H), 7.69-7.84 (m, 3H); MS (M+H)+ 283.

reactant | 5-chloroisatoic anhydride | ClC1=CC=C2C(C(=O)OC(N2)=O)=C1 | C8H4ClNO3
reactant | 5-chloroisatin | ClC=1C=C2C(C(NC2=CC1)=O)=O | C8H4ClNO2
reactant | 5-fluoroisatin | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
product | 8-Chloroindolo[2,1-b] quinazoline-6,12-dione | ClC=1C=C2C(C3=NC4=CC=CC=C4C(N3C2=CC1)=O)=O | C15H7ClN2O2
